Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with a PMHx of HLD who presents from his 
PCP for evaluation of possible pulmonary embolism. Per report, 
the patient has been noting increasing DOE for the past few 
months (at least two), where he has been needing to stop 
exerting himself with minimal work. This is very abnormal for 
him, as he is a detective for ___, and usually is very 
active. He notes that for about the past week he has had a cough 
productive of yellow sputum. He notably has also had L calf 
pain, which has lasted for approximately 2 weeks.  
 He was seen at his PCP's office, who was concerned given his 
history for VTE. A D-dimer was obtained which was x3 greater 
than then upper limit of normal. CXR at that time was negative. 
Thus he was transferred for evaluation of possible DVT/PE.  
 Of note, the patient took a trip to ___, ___ 2 weeks ago. 
Notably, this was after the development of his DOE/SOB, and he 
believes his leg pain preceded this trip. He otherwise has had 
no periods of prolonged immobility from surgery, or a personal 
history of malignancy. He has no family history of VTE.  
 In the ED, initial vitals were:  
 97.8 88 151/105 18 99% RA  
 - Exam notable for: unremarkable  
 - Labs notable for: General labs unremarkable, d-dimer 
elevated, BNP and trop negative  
 - Imaging was notable for: CTA with extensive PE's  
 - Patient was given: heparin gtt  
 
Past Medical History:
Hypercholesterolemia 
 
Social History:
___
Family History:
No family history of DVT/PE/VTE or sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM:
====================
VITAL SIGNS: 98.2 152/95 56 20 95% RA  
 GENERAL: WDWN male sitting up in bed, NAD  
 HEENT: PERRL, EOMI, sclera anicteric, OP clear  
 NECK: no JVD, no LAD  
 CARDIAC: RRR, no MRG  
 LUNGS: CTAB without wheezing or rales  
 ABDOMEN: soft, nt, nd  
 EXTREMITIES: wwp, no peripheral cyanosis or edema, no palpable 
cords in either calf or ttp  
 SKIN: no suspicious rashes or lesions  

DISCHARGE EXAM
====================
VS: 97.8  136/81  54  16  96%RA
General: Well appearing, NAD    
CV: RRR, S1-S2
Lungs: CTABL
Abdomen: Soft, non-tender
Ext: No lower extremity edema, no calf pain, 2+ pulses
Neuro: A+Ox3, moves all 4 extremities spontaneously, no facial 
asymmetry
 
Pertinent Results:
ADMISSION LABS
====================
___ 08:38PM   WBC-7.9 RBC-4.49* HGB-13.8 HCT-41.9 MCV-93 
MCH-30.7 MCHC-32.9 RDW-13.9 RDWSD-47.3*
___ 08:38PM   NEUTS-60.6 ___ MONOS-11.4 EOS-3.3 
BASOS-1.1* IM ___ AbsNeut-4.78 AbsLymp-1.82 AbsMono-0.90* 
AbsEos-0.26 AbsBaso-0.09*
___ 08:38PM   ___ PTT-28.4 ___
___ 08:38PM   PLT COUNT-228
___ 08:38PM   D-DIMER-6150*
___ 08:38PM   cTropnT-<0.01 proBNP-37
___ 08:38PM   GLUCOSE-90 UREA N-13 CREAT-1.2 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-26 ANION GAP-15
___ 10:31AM   ___ PTT-92.9* ___
___ 04:54PM   PTT-97.5*

DISCHARGE LABS
=====================
___ 06:00AM BLOOD WBC-7.3 RBC-4.44* Hgb-13.9 Hct-40.7 
MCV-92 MCH-31.3 MCHC-34.2 RDW-13.8 RDWSD-46.2 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD ___ PTT-30.8 ___
___ 06:00AM BLOOD Glucose-90 UreaN-12 Creat-1.2 Na-139 
K-4.1 Cl-102 HCO3-25 AnGap-16
___ 06:00AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.2

MICROBIOLOGY
=====================
___ 8:27 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): NO GROWTH TO DATE

IMAGING/STUDIES
======================
BILATERAL LOWER EXTREMITY VENOUS DOPPLERS ___ IMPRESSION:  
1.  Nonocclusive thrombus in the left distal femoral, popliteal, 
and calf veins.
2.  No evidence of deep vein thrombosis in the right lower 
extremity veins.

CTA CHEST ___ IMPRESSION: 
1.  Extensive pulmonary emboli involving all lobes, including a 
saddle
embolus, including a partially occlusive saddle embolus of the 
right and left main pulmonary arteries.  No CT evidence of right 
heart strain.
2.  Mild scattered airways inflammation evidenced by mildly 
thickened airways.

ECHO ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). There is no 
ventricular septal defect. Right ventricular chamber size is 
normal with borderline normal free wall function. The aortic 
root is mildly dilated at the sinus level. The ascending aorta 
is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

IMPRESSION: Mild symmetric hypertrophy with normal 
global/regional left ventricular systolic function. Normal right 
ventricular cavity size with low normal systolic function. No 
pathologic valvular flow. 

 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of 
hyperlipidemia who was sent to ___ ED on ___ by his PCP after 
presenting with two months of shortness of breath and found to 
have an elevated d-dimer found to have bilateral segmental 
pulmonary embolisms, non-occlusive saddle embolus in addition to 
LLE DVT requiring anticoagulation. 

#PULMONARY EMBOLISM, LEFT LOWER EXTREMITY DVT: Patient presented 
to PCP complaining of 2 months SOB, left calf pain. PCP 
performed CXR that was reportedly unremarkable. D-dimer was 
elevated. Therefore, patient was referred to ___ ED where he 
had a CTA that showed bilateral segmental pulmonary embolisms 
with a non-occlusive saddle embolus. Given his history of left 
calf pain, LENIs were performed that showed LLE DVT. Overall 
presentation consistent with subacute unprovoked DVT. Patient 
remained hemodynamically stable without vital sign changes. His 
EKG and echo did not show signs of right heart strain. Normal 
BNP and troponins. He did not meet criteria for massive 
(hemodynamic instability) or submassive (right heart strain). 

Regarding etiology of blood clots, patient has no recent 
immobilization. He did report he travels approximately every 5 
weeks to ___, but otherwise is very active. In fact, patient 
continued exercising multiple times per day on the stationary 
bike. Patient is up to date on age-related cancer screening and 
had no history of trauma. No known family history of 
hypercoagulability or VTE. Patient was initially anticoagulated 
with heparin gtt before transitioning to apixaban for NOAC 
therapy. Patient did well and was discharged to follow up 
further work up with his PCP. 

# HYPERLIPIDEMIA: Continued Simvastatin 20mg. Discontinued 
Aspirin 81mg since now on anticoagulation.

=================================================
Transitional Issues:
- initiated on apixiban 10 mg BID through ___ then will 
decrease to 5 mg BID thereafter
- discontinue aspirin 81mg QD
- cardiology recommends repeat echo in 3 months 
- may consider hematology follow-up as an outpatient to 
determine anticoagulation course and further work-up

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*68 Tablet Refills:*0 
2.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Pulmonary Embolism
-Venous Thromboembolism
-Deep Venous Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why I was I here? 
- You came here because you had difficulty breathing. 

What was done while I was here?
- You had a CAT scan of your lungs that showed a blood clot.
- You had an ultrasound (sonogram) of your left leg that showed 
a blood clot.
- You got a blooding thinning medicine through an IV called 
heparin.
- The heparin was stopped and you got a blood thinning pill 
called Apixiban (Eloquis). 

What should I do when I get home?
- It is very important that you take the new medicine (Apixiban) 
every day. You will take two pills in the morning and two pills 
in the evening for 7 days total (until ___.
- On ___, you will start taking 1 pill in the morning and 1 
pill in the evening. 
- Do not stop this medicine for any reason without talking to 
your doctor first. 
- Call your immediately if you have black poop.
- Do not take aspirin, ibuprofen, or Advil. You are more likely 
to have a bleed if you take these medicines.   

It was a pleasure taking part in your care. 

Sincerely,

Your ___ Care Team  

 
Followup Instructions:
___